US08258316B2
To the 4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzoic acid (210 mgs, 0.76 mmol) in DMF (2 mL), was added HATU (375 mg, 0.99 mmol), tert-butyl 2-amino-4-fluorophenylcarbamate (172 mg, 0.76 mmol) and NMM (0.3 mL, 2.3 mmol) and stirred at 55° C. for 40 hours. The reaction mixture was then diluted with water and acetonitrile and the precipitate formed was then filtered, washed with water and dried. The solid was then purified by column chromatography on silica gel with elution using 80% ethyl acetate/hexanes to give tert-butyl 4-fluoro-2-(4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzamido)phenylcarbamate.

reactant | 4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzoic acid | 0.76 mmol, 210 mgs | O=C1N(CCC1)C(C(=O)NC1=CC=C(C(=O)O)C=C1)C | C14H16N2O4
reactant | HATU | 0.99 mmol, 375 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl 2-amino-4-fluorophenylcarbamate | 0.76 mmol, 172 mg | NC1=C(C=CC(=C1)F)NC(OC(C)(C)C)=O | C11H15FN2O2
reactant | NMM | 2.3 mmol, 0.3 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-butyl 4-fluoro-2-(4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzamido)phenylcarbamate | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)NC(C1=CC=C(C=C1)NC(C(C)N1C(CCC1)=O)=O)=O | C25H29FN4O5
